US09079866B2
tert-Butyl N-{[4′-(2-aminopyrimidin-5-yl)-3′-fluorobiphenyl-2-yl]sulfonyl}-L-alaninate
The title compound was prepared using analogous conditions to those described in Example 571 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrimidin-2-amine and (S)-tert-butyl 2-(2-bromophenylsulfonamido)propanoate. MS (ESI): mass calcd. for C23H25FN4O4S, 472.16; m/z found, 473.1 [M+H]+. 1H NMR (500 MHz, CD3OD) δ 8.65 (d, J=1.1, 2H), 8.08 (dd, J=8.0, 1.2, 1H), 7.66 (m, 1H), 7.61-7.49 (m, 2H), 7.37 (m, 3H), 3.66 (q, J=107.2, 1H), 1.34 (s, 9H), 1.26 (d, J=7.2, 3H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
reactant | (S)-tert-butyl 2-(2-bromophenylsulfonamido)propanoate | BrC1=C(C=CC=C1)S(=O)(=O)N[C@H](C(=O)OC(C)(C)C)C | C13H18BrNO4S
product | tert-Butyl N-{[4′-(2-aminopyrimidin-5-yl)-3′-fluorobiphenyl-2-yl]sulfonyl}-L-alaninate | NC1=NC=C(C=N1)C1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)N[C@@H](C)C(=O)OC(C)(C)C)F | C23H25FN4O4S
